US07410981B2
2-[[[2-[[[3-Methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl]methyl]sulfinyl]-1H-benzimidazol-1-yl]carbonyl](phenyl)amino]ethyl acetate
To a solution (10 mL) of 2-[(chlorocarbonyl)(phenyl)amino]ethyl acetate (0.58 g) prepared in the same manner as in Example 25 in tetrahydrofuran were added 2-[[[3-methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl]methyl]sulfinyl]-1H-benzimidazole (0.739 g), triethylamine (0.558 mL) and 4-dimethylaminopyridine (0.024 g), and the mixture was stirred at 60° C. for 15 hrs. Ethyl acetate (30 mL) was added to the reaction mixture, and the mixture was washed with water (50 mL) and saturated brine (50 mL), dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by flash silica gel column chromatography (eluted with acetone:hexane=1:4, then 3:2). Crystallization from diethyl ether gave the title compound (0.779 g) as a white solid.

reactant | 2-[(chlorocarbonyl)(phenyl)amino]ethyl acetate | 10 mL, 0.58 g | C(C)(=O)OCCN(C1=CC=CC=C1)C(=O)Cl | C11H12ClNO3
reactant | 2-[[[3-methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl]methyl]sulfinyl]-1H-benzimidazole | 0.739 g | CC=1C(=NC=CC1OCC(F)(F)F)CS(=O)C1=NC2=C(N1)C=CC=C2 | C16H14F3N3O2S
reactant | triethylamine | 0.558 mL | C(C)N(CC)CC | C6H15N
reactant | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.024 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-[[[2-[[[3-Methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl]methyl]sulfinyl]-1H-benzimidazol-1-yl]carbonyl](phenyl)amino]ethyl acetate | 0.779 g | C(C)(=O)OCCN(C1=CC=CC=C1)C(=O)N1C(=NC2=C1C=CC=C2)S(=O)CC2=NC=CC(=C2C)OCC(F)(F)F | C27H25F3N4O5S
